US07271197B2
iii) 4-[3-(Aminosulfonyl)phenyl]butyl methanesulfonate
A solution of 3-(4-hydroxybutyl)benzenesulfonamide (458 mg) in dry THF (10 ml) was treated with triethylamine (0.307 ml) and the resultant solution cooled to 0° C. Methanesulfonyl chloride (0.17 ml) was added dropwise. The mixture was allowed to warm to room temperature and stirred for a further 15 minutes. The reaction mixture was partitioned between 1M HClaq and EtOAc. The aqueous phase was washed with EtOAc. The combined organic phase was dried (MgSO4) and concentrated in vacuo to give the title compound LCMS RT=2.67 min.

reactant | 3-(4-hydroxybutyl)benzenesulfonamide | 458 mg | OCCCCC=1C=C(C=CC1)S(=O)(=O)N | C10H15NO3S
reactant | triethylamine | 0.307 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.17 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-[3-(Aminosulfonyl)phenyl]butyl methanesulfonate | CS(=O)(=O)OCCCCC1=CC(=CC=C1)S(=O)(=O)N | C11H17NO5S2
